### ISSUE TITLE
Several Axioms and theorems in MixedPrec are falsely stated

### ISSUE THREAD

**Issue by zhouxt1** [leanprover/TensorLib#104]
Hi, I found the following issues in MixedPred. Many of the axioms assumes that Float32 behaves like a perfect real number, but it can be broken due to Floats being inaccurate. For example, rounding means 1e8 + 1 = 1e8. The false axioms are: 
`float32_eq_add_sub , float32_abs_triangle, float32_add_le_add, float32_mul_add3, float32_add_sub_cancel, float32_add_sub_cancel_left, float32_add_sub_decomp, float32_abs_sub_triangle, float32_add_notNaN, float32_sub_notNaN, float32_mul_notNaN, float8E4M3_normal_rounding_bound`. Also the theorems `pointwiseBoundE4M3, pointwiseBound, additionErrorBound` are also false. 

Here are the refutation for all the axioms mentioned (it is drafted by Claude): 
```lean
import TensorLib.MixedPrec

namespace TensorLib

/-! # Refutations

Every false axiom above is refuted by applying it to a concrete counterexample and deriving
`False`; `#print axioms` on each refutation names the axiom being refuted. Every false theorem
statement is restated verbatim (the restatement is checked against the original by `example`)
and its negation is proved without any of the axioms above.

Trust base: the kernel (`decide`) plus a single `native_decide` fact, `eps_e4m3`, because
`Float32.pow` is `opaque` (implemented by C `powf`) and so the kernel cannot evaluate
`machineEpsilon`. The theorems being refuted already rely on `native_decide` themselves.

Counterexample values (as Float32 bit patterns):
* `1e8 = 0x4CBEBC20`: float32 spacing at 1e8 is 8, so `1e8 + 1 = 1e8`.
* `±∞`, and `±maxFinite = ±0x7F7FFFFF`.
* `x₀ = 3·2⁻¹⁰ = 0x3B400000`: a normal fp32 value inside e4m3's *subnormal* range
  `[2⁻⁹, 2⁻⁶)`. e4m3 values there are spaced `2⁻⁹` apart, so rounding `x₀` has error
  `2⁻¹⁰ ≫ ½·ε·|x₀| = 3·2⁻¹⁴`. `fp8Min` should be the smallest *normal* (`2⁻⁶`), not the
  smallest subnormal.
-/

namespace Refutation

abbrev one  : Float32 := Float32.ofBits 0x3F800000
abbrev two  : Float32 := Float32.ofBits 0x40000000
abbrev big  : Float32 := Float32.ofBits 0x4CBEBC20  -- 1e8
abbrev pinf : Float32 := Float32.ofBits 0x7F800000
abbrev ninf : Float32 := Float32.ofBits 0xFF800000
abbrev pmax : Float32 := Float32.ofBits 0x7F7FFFFF
abbrev nmax : Float32 := Float32.ofBits 0xFF7FFFFF
abbrev x₀   : Float32 := Float32.ofBits 0x3B400000  -- 3·2⁻¹⁰

/-- `powf 2 (-3) = 0.125`. The only non-kernel fact used below. -/
theorem eps_e4m3 : Float32.pow 2.0 (-Nat.toFloat32 3) = 0.125 := by native_decide

theorem machineEpsilon_e4m3 : (machineEpsilon .float8_e4m3).getD 0 = 0.125 := eps_e4m3

/-! ## False axioms -/

/-- `1 ≠ 1e8 + (1 - 1e8) = 0`. -/
theorem float32_eq_add_sub_false : False := by
  have h := float32_eq_add_sub one big; revert h; decide

/-- `|∞ + -∞| = NaN`, and `NaN ≤ _` is false. -/
theorem float32_abs_triangle_false : False := by
  have h := float32_abs_triangle pinf ninf (by decide) (by decide); revert h; decide

/-- `∞ ≤ ∞` and `-∞ ≤ -∞`, but `∞ + -∞ = NaN ≰ NaN`. -/
theorem float32_add_le_add_false : False := by
  have h := float32_add_le_add pinf pinf ninf ninf (by decide) (by decide) (by decide) (by decide)
    (by decide) (by decide)
  revert h; decide

/-- `2 * (max + -max + 0) = 0`, but `2*max + 2*(-max) + 2*0 = ∞ + -∞ = NaN`. -/
theorem float32_mul_add3_false : False := by
  have h := float32_mul_add3 two pmax nmax 0 (by decide) (by decide) (by decide) (by decide)
  revert h; decide

/-- `(1 + 1e8) - 1e8 = 0 ≠ 1`. -/
theorem float32_add_sub_cancel_false : False := by
  have h := float32_add_sub_cancel one big (by decide) (by decide); revert h; decide

/-- `(1e8 + 1) - 1e8 = 0 ≠ 1`. -/
theorem float32_add_sub_cancel_left_false : False := by
  have h := float32_add_sub_cancel_left big one (by decide) (by decide); revert h; decide

/-- `(1e8 + 1) - (1e8 + 0) = 0`, but `(1e8 - 1e8) + (1 - 0) = 1`. -/
theorem float32_add_sub_decomp_false : False := by
  have h := float32_add_sub_decomp big 0 big one (by decide) (by decide) (by decide) (by decide)
  revert h; decide

/-- `|∞ - 0| = ∞`, but `|∞ - ∞| + |∞ - 0| = NaN`. -/
theorem float32_abs_sub_triangle_false : False := by
  have h := float32_abs_sub_triangle pinf pinf 0 (by decide) (by decide) (by decide)
  revert h; decide

/-- `∞ + -∞ = NaN`. -/
theorem float32_add_notNaN_false : False := by
  have h := float32_add_notNaN pinf ninf (by decide) (by decide); revert h; decide

/-- `∞ - ∞ = NaN`. -/
theorem float32_sub_notNaN_false : False := by
  have h := float32_sub_notNaN pinf pinf (by decide) (by decide); revert h; decide

/-- `0 * ∞ = NaN`. -/
theorem float32_mul_notNaN_false : False := by
  have h := float32_mul_notNaN 0 pinf (by decide) (by decide); revert h; decide

/-- `x₀` rounds to `2⁻⁸`: error `2⁻¹⁰ > ½ · 0.125 · x₀`. -/
theorem float8E4M3_normal_rounding_bound_false : False := by
  have h := float8E4M3_normal_rounding_bound x₀ (by decide) (by decide) (by decide)
  rw [eps_e4m3] at h; revert h; decide

/-! ## False theorem statements

`pointwiseBoundE4M3`, `pointwiseBound` and the axiom `fp8_normal_rounding_bound` conclude
`∃ err, round x = .ok (x + err) ∧ |err| ≤ B`. Ruling out *every* `err` needs monotonicity of
float addition, which core Lean's float model does not provide. It is taken here as an explicit
hypothesis `AddMonoAt x₀` (IEEE round-to-nearest addition is monotone), not as an axiom.

`additionErrorBound` needs no such hypothesis: its witness is fixed by
`round (a' + b') = .ok result`. -/

/-- Monotonicity of `x + ·` (true for IEEE-754 round-to-nearest; `e.abs ≤ b` forces both
non-NaN and `e ≤ b`). -/
def AddMonoAt (x : Float32) : Prop := ∀ e b : Float32, e.abs ≤ b → x + e ≤ x + b

/-- The shared conclusion shape is false at `x₀`, given monotonicity. -/
theorem no_err_at_x₀ (hmono : AddMonoAt x₀) :
    ¬ ∃ err : Float32, Dtype.roundToComputeDtype x₀ .float8_e4m3 = .ok (x₀ + err) ∧
      err.abs ≤ 0.5 * (machineEpsilon .float8_e4m3).getD 0 * x₀.abs := by
  rintro ⟨err, hr, hb⟩
  rw [machineEpsilon_e4m3] at hb
  have hround : Dtype.roundToComputeDtype x₀ .float8_e4m3 = .ok (Float32.ofBits 0x3B800000) := by
    decide
  rw [hround] at hr
  injection hr with hr
  -- 2⁻⁸ = x₀ + err ≤ x₀ + B < 2⁻⁸
  have hle := hmono err _ hb
  rw [← hr] at hle
  exact Float32.le_lt_false _ _ hle (by decide)

def PointwiseBoundE4M3Stmt : Prop :=
  ∀ (x : Float32), x.abs ≤ (Dtype.fp8Max .float8_e4m3).getD 0 →
    (x = 0 ∨ Float32.ofBits 0x3B000000 <= x.abs) →
    ∃ err : Float32, Dtype.roundToComputeDtype x .float8_e4m3 = .ok (x + err)
    ∧ err.abs <= 0.5 * (machineEpsilon .float8_e4m3).getD 0 * x.abs

example : PointwiseBoundE4M3Stmt := pointwiseBoundE4M3

theorem pointwiseBoundE4M3_false (hmono : AddMonoAt x₀) : ¬ PointwiseBoundE4M3Stmt :=
  fun h => no_err_at_x₀ hmono (h x₀ (by decide) (by decide))

def PointwiseBoundStmt : Prop :=
  ∀ (dtype : Dtype) (x : Float32), (Dtype.fp8Max dtype).isSome →
    x.abs ≤ (Dtype.fp8Max dtype).getD 0 →
    (x = 0 ∨ (Dtype.fp8Min dtype).getD 0 ≤ x.abs) →
    ∃ err : Float32, Dtype.roundToComputeDtype x dtype = .ok (x + err) ∧
    err.abs ≤ 0.5 * (machineEpsilon dtype).getD 0 * x.abs

example : PointwiseBoundStmt := fun d x h1 h2 h3 => pointwiseBound d x h1 h2 h3

theorem pointwiseBound_false (hmono : AddMonoAt x₀) : ¬ PointwiseBoundStmt :=
  fun h => no_err_at_x₀ hmono (h .float8_e4m3 x₀ (by decide) (by decide) (by decide))

/-- The axiom `fp8_normal_rounding_bound` has the same conclusion. -/
theorem fp8_normal_rounding_bound_false (hmono : AddMonoAt x₀) : False :=
  no_err_at_x₀ hmono (fp8_normal_rounding_bound .float8_e4m3 x₀ (by decide) (by decide) (by decide))

def AdditionErrorBoundStmt : Prop :=
  ∀ (dtype : Dtype) (_ : (Dtype.fp8Max dtype).isSome) (a b a' b' : Float32),
    a.isNaN = false → b.isNaN = false → a'.isNaN = false → b'.isNaN = false →
    (a' - a).abs ≤ 0.5 * (machineEpsilon dtype).getD 0 * a.abs →
    (b' - b).abs ≤ 0.5 * (machineEpsilon dtype).getD 0 * b.abs →
    (a' + b').abs ≤ (Dtype.fp8Max dtype).getD 0 →
    (a' + b' = 0 ∨ (Dtype.fp8Min dtype).getD 0 ≤ (a' + b').abs) →
    ∃ result : Float32,
      Dtype.roundToComputeDtype (a' + b') dtype = .ok result ∧
      (result - (a + b)).abs ≤
        0.5 * (machineEpsilon dtype).getD 0 * (a.abs + b.abs + (a' + b').abs)

example : AdditionErrorBoundStmt := fun d h a b a' b' h1 h2 h3 h4 h5 h6 h7 h8 =>
  additionErrorBound d h a b a' b' h1 h2 h3 h4 h5 h6 h7 h8

/-- `a = a' = x₀`, `b = b' = 0`: no quantization error on the inputs, yet the result `2⁻⁸`
is `2⁻¹⁰` away from `x₀`, above the bound `½ · 0.125 · 2x₀ = 3·2⁻¹³`. -/
theorem additionErrorBound_false : ¬ AdditionErrorBoundStmt := by
  intro h
  have ha : (x₀ - x₀).abs ≤ 0.5 * (machineEpsilon .float8_e4m3).getD 0 * x₀.abs := by
    rw [machineEpsilon_e4m3]; decide
  have hb : ((0 : Float32) - 0).abs ≤ 0.5 * (machineEpsilon .float8_e4m3).getD 0 * (0 : Float32).abs := by
    rw [machineEpsilon_e4m3]; decide
  obtain ⟨result, hr, hbound⟩ := h .float8_e4m3 (by decide) x₀ 0 x₀ 0
    (by decide) (by decide) (by decide) (by decide) ha hb (by decide) (by decide)
  have hround : Dtype.roundToComputeDtype (x₀ + 0) .float8_e4m3 = .ok (Float32.ofBits 0x3B800000) := by
    decide
  rw [hround] at hr
  injection hr with hr
  subst hr
  rw [machineEpsilon_e4m3] at hbound
  revert hbound; decide

end Refutation

end TensorLib

```

Thanks
